US05387593
Ammonium formate (25 g) was added to a mixture of 4-(3-methoxybenzoyl)-pyridine (27 g, 127 mmole) and 10% palladium on charcoal (7 g) in acetic acid (250 ml). The mixture was heated at reflux for 0.5 hr. The mixture was cooled and diluted with an equal volume of methylene chloride. The catalyst was removed and the solution concentrated in vacuo. The residue was dissolved in water and basified with sodium hydroxide. The mixture was extracted with ether. The extracts were dried and concentrated in vacuo to give the crude 4-(3-methoxybenzyl)pyridine (25 g, 98.8%) which was used without purification in the next step.

reactant | Ammonium formate | 25 g | C(=O)[O-].[NH4+]
reactant | 4-(3-methoxybenzoyl)-pyridine | 127 mmole, 27 g | COC=1C=C(C(=O)C2=CC=NC=C2)C=CC1 | C13H11NO2
catalyst | palladium on charcoal | 7 g | [Pd] | Pd
solvent | acetic acid | 250 ml | C(C)(=O)O | C2H4O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 4-(3-methoxybenzyl)pyridine | 25 g, 98.8% | COC=1C=C(CC2=CC=NC=C2)C=CC1 | C13H13NO
